US06613942B1
1-Bromo-4-(2-tetrahydropyranyloxyethyl)naphthalene:
To a solution of 1-bromo-4-(2-hydroxyethyl)naphthalene (1.71 g, 6.8 mmol) in dichloromethane (20 mL) was added 3,4-dihydro-2H-pyrane (1 mL, 0.92 g, 11.0 mmol) and p-toluene sulfonic acid (80 mg). The mixture was stirred at room temperature for 90 min, diluted with dichloromethane (20 mL), washed with satd. NaHCO3 sol. (20 mL), dried (MgSO4), and concentrated. Flash chromatography using hexane/ethyl acetate 9:1 as eluent provided 1.69 g (75%) of a colorless oil.

reactant | 1-bromo-4-(2-hydroxyethyl)naphthalene | 6.8 mmol, 1.71 g | BrC1=CC=C(C2=CC=CC=C12)CCO | C12H11BrO
reactant | 3,4-dihydro-2H-pyrane | 11.0 mmol, 1 mL, 0.92 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | p-toluene sulfonic acid | 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-Bromo-4-(2-tetrahydropyranyloxyethyl)naphthalene | 1.69 g, 75% | BrC1=CC=C(C2=CC=CC=C12)CCOC1OCCCC1 | C17H19BrO2
